US05134111
(b) Preparation of 8-isopropenyl-1-naphthyl acetate
11.3 g of 8-(1-hydroxy-1-methyl-1-ethyl)-1-naphthol was dissolved in 24 ml of pyridine, to which 12 ml of anhydrous acetic acid was added. The solution was raised in temperature to 60° C. and heated for 6 hours under agitation. Water was added to the reaction solution, followed by extraction with ethyl acetate. The resulting organic phase was washed with a 2N hydrochloric acid aqueous solution, water and a saturated saline solution in this order, dried with anhydrous magnesium sulfate, and concentrated under reduced pressure. The resultant residue was purified by silica gel column chromatography (10% ethyl acetate/hexane) to obtain 3.6 g of the captioned compound as an oily substance.

reactant | 8-(1-hydroxy-1-methyl-1-ethyl)-1-naphthol | 11.3 g | OC(C)(C)C=1C=CC=C2C=CC=C(C12)O | C13H14O2
reactant | Water | O | H2O
reactant | pyridine | 24 ml | N1=CC=CC=C1 | C5H5N
solvent | acetic acid | 12 ml | C(C)(=O)O | C2H4O2
product | 8-isopropenyl-1-naphthyl acetate | 3.6 g | C(C)(=O)OC1=CC=CC2=CC=CC(=C12)C(=C)C | C15H14O2
